US07915443B2
6-Amino-5-{3-[(3-methyl-furan-2-carbonyl)-amino]-phenylethynyl}-nicotinic acid methyl ester
In a 4 mL vial, N-(3-ethynylphenyl)-3-methylfuran-2-carboxamide (0.607 g, 2.70 mmol) and methyl 6-amino-5-iodonicotinate (0.5 g, 1.80 mmol) were dissolved in DMF (6 mL). The solution was degassed by bubbling N2(g) through it for ˜30 min. To the degassed solution was added DIPEA (1.25 mL, 7.19 mmol), followed by Pd(PPh3)2Cl2 (0.126 g, 0.18 mmol) and CuI (0.068 g, 0.360 mmol). The reaction mixture was allowed to stir at 50° C. for 3 h. The reaction mixture then was taken up in EtOAc (10 mL) and was extracted with brine (3×10 mL). The organic layers were combined and concentrated in vacuo. The crude mixture was purified via column chromatography (gradient eluant mixture of EtOAc in Hexanes: 25% to 100% EtOAc) to give the title compound as a white solid (0.554 g, 82%).

reactant | N-(3-ethynylphenyl)-3-methylfuran-2-carboxamide | 2.70 mmol, 0.607 g | C(#C)C=1C=C(C=CC1)NC(=O)C=1OC=CC1C | C14H11NO2
reactant | methyl 6-amino-5-iodonicotinate | 1.80 mmol, 0.5 g | NC1=NC=C(C(=O)OC)C=C1I | C7H7IN2O2
reactant | DIPEA | 7.19 mmol, 1.25 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.18 mmol, 0.126 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.360 mmol, 0.068 g | [Cu]I
product | 6-Amino-5-{3-[(3-methyl-furan-2-carbonyl)-amino]-phenylethynyl}-nicotinic acid methyl ester | 0.554 g, 82% | COC(C1=CN=C(C(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)N)=O | C21H17N3O4
